US04824833
A solution of 1.3 g of sodium nitrite in 3 ml of water is added to a mixture of 4.8 g of 6-amino-2-benzyl-3-oxo-1,4-benzoxazine, 3 ml of conc. hydrochloric acid and 60 ml of acetone. After the mixture is stirred at room temperature for 30 minutes, 10.6 ml of methyl acrylate are added thereto, and 500 mg of copper oxide (I) are added gradually at a temperature of 35° to 40° C. After stirring for 30 minutes, the mixture is poured into water and extracted with ethyl acetate. The extract is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:methanol=100:1) to give 4.95 g of crude methyl 3-(2-benzyl-3-oxo-1,4-benzoxazin-6-yl)-2-chloropropionate.

reactant | sodium nitrite | 1.3 g | N(=O)[O-].[Na+]
reactant | 6-amino-2-benzyl-3-oxo-1,4-benzoxazine | 4.8 g | NC=1C=CC2=C(NC(C(O2)CC2=CC=CC=C2)=O)C1 | C15H14N2O2
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | methyl acrylate | 10.6 ml | C(C=C)(=O)OC | C4H6O2
solvent | water | 3 ml | O | H2O
catalyst | copper oxide | 500 mg | [Cu]=O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | methyl 3-(2-benzyl-3-oxo-1,4-benzoxazin-6-yl)-2-chloropropionate | 4.95 g, Yield 73% | C(C1=CC=CC=C1)C1OC2=C(NC1=O)C=C(C=C2)CC(C(=O)OC)Cl | C19H18ClNO4
